US08048825B2
After 3-(2-aminobenzyl)-5,5-dimethyl-[1,3]-oxazinan-2-thione (0.54 g, 2.16 mmol) and triethylamine (0.23 g, 2.28 mmol) was dissolved in chloroform (15 ml), the reaction solution was cooled to −10° C. Then trifluoromethanesulfonic anhydride (0.64 g, 2.28 mmol) was added dropwise thereto and stirred at temperature as is for one hour. The reaction mixture was added with dilute hydrochloric acid and extracted with ethyl acetate. The solvent was evaporated under reduced pressure after the organic layer was dried over anhydrous sodium sulfate. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 5,5-dimethyl-3-[2-(trifluoromethanesulfonylamino)benzyl]-[1,3]-oxazinan-2-thione (0.57 g).

reactant | 3-(2-aminobenzyl)-5,5-dimethyl-[1,3]-oxazinan-2-thione | 2.16 mmol, 0.54 g | NC1=C(CN2C(OCC(C2)(C)C)=S)C=CC=C1 | C13H18N2OS
reactant | triethylamine | 2.28 mmol, 0.23 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.28 mmol, 0.64 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,5-dimethyl-3-[2-(trifluoromethanesulfonylamino)benzyl]-[1,3]-oxazinan-2-thione | 0.57 g | CC1(CN(C(OC1)=S)CC1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F)C | C14H17F3N2O3S2
